US04284766
(a) (6R,7R)-3-Phosphonocarbamoyloxymethyl-7-[Z-2-(fur-2-yl) 2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid
Bromotrimethylsilane (0.61 g), in dichloromethane (3 ml) was added (at 0° under nitrogen) to a stirred solution of (6R,7R)-3-dimethoxyphosphorylcarbamoyloxymethyl-7-[Z-2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid (0.53 g) and trimethylsilylurethane (0.965 g) in dry dichloromethane (5 ml). After 1.75 hours no starting cephalosporin remained as indicated by t.l.c.

reactant | Bromotrimethylsilane | 0.61 g | Br[Si](C)(C)C | C3H9BrSi
reactant | (6R,7R)-3-dimethoxyphosphorylcarbamoyloxymethyl-7-[Z-2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid | 0.53 g | COP(=O)(OC)NC(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(=N/OC)\C=2OC=CC2)=O)=O | C18H21N4O11PS
reactant | trimethylsilylurethane | 0.965 g | C[Si](C)(C)NC(=O)OCC | C6H15NO2Si
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (6R,7R)-3-Phosphonocarbamoyloxymethyl-7-[Z-2-(fur-2-yl) 2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid | P(=O)(O)(O)NC(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(=N/OC)\C=2OC=CC2)=O)=O | C16H17N4O11PS
